US05922771
3-(3-Bromo-4-methoxyphenyl)propionic acid
To a solution of 3-(4-methoxyphenyl)propionic acid (4.0 g, 22.2 mmol) in acetic acid (20 ml) was added bromine (3.9 g, 24.4 mmol) gradually dropwise at 10° C. and the mixture was stirred at room temperature for 30 minutes. This reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed serially with saturated saline and water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was washed with hexane to provide the title compound (yield 5.0 g, 87%).

reactant | 3-(4-methoxyphenyl)propionic acid | 22.2 mmol, 4.0 g | COC1=CC=C(C=C1)CCC(=O)O | C10H12O3
reactant | bromine | 24.4 mmol, 3.9 g | BrBr | Br2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-(3-Bromo-4-methoxyphenyl)propionic acid | yield 5.0 g, 87% | BrC=1C=C(C=CC1OC)CCC(=O)O | C10H11BrO3
